### ISSUE TITLE
`apply_rules` with discharger

### ISSUE THREAD

**Issue by hrmacbeth** [leanprover-community/mathlib4#3844]
Using `apply_rules` with a discharger is a cheap way to write a nontrivial tactic.  This worked before #3480 but now seems to be broken:
```lean
import Mathlib.Tactic.Positivity
import Mathlib.Tactic.SolveByElim

open Lean Mathlib

def PositivityDischarge (g : MVarId) : MetaM (Option (List MVarId)) :=
do Meta.Positivity.positivity g; pure (some []) <|> pure none

-- works
example (x : ℤ) : 0 ≤ x ^ 2 := by
  solve_by_elim (config := { discharge := PositivityDischarge })

-- fails
example (x : ℤ) : 0 ≤ x ^ 2 := by
  solve_by_elim (config := { discharge := PositivityDischarge, backtracking := false })

-- fails
example (x : ℤ) : 0 ≤ x ^ 2 := by
  apply_rules (config := { discharge := PositivityDischarge })
```

See [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/apply_rules.20with.20discharger)
